US07897631B2
4-But-3-ynyl-1H-imidazol-2-ylamine hydrochloride (0.061 g, 0.361 mmol) was reacted with 2-azidomethyl-1-H-benzimidazole (0.075 g, 0.433 mmol) following the general procedure for click reactions outlined above to produce 4-{2-[1-(1H-Benzoimidazol-2-ylmethyl)-1H-[1,2,3]triazol-4-yl]-ethyl}-1H-imidazol-2-ylamine dihydrochloride (0.066 g, 48%) of a yellow solid. 1H NMR (300 MHz, CD3OD) δ 8.05 (s, 1H), δ 7.68 (m. 2H), δ 7.48 (m, 2H), δ 6.38 (s, 1H), δ 6.15 (s, 2H′), δ 2.90 (t, 2H), δ 2.76 (t, 2H) ppm; 13C (75 MHz, CD3OD) δ 147.4, 146.9, 146.8, 131.3, 127.0, 126.4, 124.1, 114.1, 109.2, 44.7, 24.0, 23.9 ppm; HRMS (ESI) calcd for C15H17N8 (M+) 309.1570. found 309.1572.

reactant | 4-But-3-ynyl-1H-imidazol-2-ylamine hydrochloride | 0.361 mmol, 0.061 g | Cl.C(CC#C)C=1N=C(NC1)N
reactant | 2-azidomethyl-1-H-benzimidazole | 0.433 mmol, 0.075 g | N(=[N+]=[N-])CC1=NC2=C(N1)C=CC=C2 | C8H7N5
product | 4-{2-[1-(1H-Benzoimidazol-2-ylmethyl)-1H-[1,2,3]triazol-4-yl]-ethyl}-1H-imidazol-2-ylamine dihydrochloride | 0.066 g, 48% | Cl.Cl.N1C(=NC2=C1C=CC=C2)CN2N=NC(=C2)CCC=2N=C(NC2)N | InChI=1S/C15H16N8.2ClH/c16-15-17-7-10(18-15)5-6-11-8-23(22-21-11)9-14-19-12-3-1-2-4-13(12)20-14;;/h1-4,7-8H,5-6,9H2,(H,19,20)(H3,16,17,18);2*1H
